US07691805B2
Procedure C—Coupling with Z-Arg-OH
The amino-component (10 mmol) was dissolved in DMF (70 ml), and 4.59 g (30 mmol monohydrate) HOBT was added. To the solution was diisopropyletylamine (DIPEA) added dropwise, until the pH of the mixture, controlled with wet indicator paper reached 7-8. Next, the N-benzyloxycarbonyl-arginine hydrochloride (5.17 g, 15 mmol) was added and the solution was cooled on ice bath. N,N′-Dicyclohexylcarbodiimide (3.09 g, 15 mmol) was added in small portions during 1 h. and after additional 1 h of stirring, the reaction mixture was left in a cold room overnight (approximately 4° C.). The precipitated DCU was filtered off and washed with a small volume of DMF and the combined filtrates were evaporated under reduced pressure. From the resulting mixture cystapep 1 (or its analogues) was isolated using chromatography techniques.

reactant | HOBT | 30 mmol, 4.59 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropyletylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-benzyloxycarbonyl-arginine hydrochloride | 15 mmol, 5.17 g | Cl.C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | N,N′-Dicyclohexylcarbodiimide | 15 mmol, 3.09 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | Z-Arg-OH | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H20N4O4
